US05233035
Diphenylmethyl 2-(3-thienyl)-2-aminooxyacetate (140 mg) was dissolved in methanol (14 ml), and 2-(2-tritylaminothiazol-4-yl)-2-oxoacetic acid (171 mg) was added. After stirring the mixture for 1 hr. at the room temperature, and further stirring for 30 min. under ice-cooling to obtain a crystal, the crystal thus obtained was filtered off to give (Z)-2-(2-tritylamino-4-thiazolyl)-2-[(diphenylmethyloxycarbonyl)(3-thienyl)methyl]oxyiminoacetic acid (210 mg).

reactant | Diphenylmethyl 2-(3-thienyl)-2-aminooxyacetate | 140 mg | S1C=C(C=C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)ON | C19H17NO3S
reactant | 2-(2-tritylaminothiazol-4-yl)-2-oxoacetic acid | 171 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=O | C24H18N2O3S
solvent | methanol | 14 ml | CO | CH4O
product | (Z)-2-(2-tritylamino-4-thiazolyl)-2-[(diphenylmethyloxycarbonyl)(3-thienyl)methyl]oxyiminoacetic acid | 210 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CSC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C43H33N3O5S2
